### PR TITLE
[Merged by Bors] - feat: add a FloorSemiring instance to NNRat

### PR DESCRIPTION
**Pull request by eric-wieser**
Also some missing `norm_cast` lemmas for inequalities of casts between different types.

---

- [x] depends on: #13547

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/NNRat/Floor.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+Authors: Eric Wieser
+-/
+import Mathlib.Data.Rat.Floor
+
+/-!
+# Floor Function for Non-negative Rational Numbers
+
+## Summary
+
+We define the `FloorSemiring` instance on `ℚ≥0`, and relate it's operators to `NNRat.cast`.
```
Comment (YaelDillies) [inline Mathlib/Data/NNRat/Floor.lean:13]:
```suggestion
We define the `FloorSemiring` instance on `ℚ≥0`, and relate its operators to `NNRat.cast`.
```

File: Mathlib/Data/NNRat/Floor.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+
+Note that we cannot talk about `Int.fract`, which currently only works for rings.
```
Comment (YaelDillies) [inline Mathlib/Data/NNRat/Floor.lean:15]: Doesn't that mean we are missing `Nat.fract` with the obvious definition?

File: Mathlib/Data/NNRat/Floor.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+  rw [← Int.natCast_inj, NNRat.coe_floor, Rat.floor_def, Int.ofNat_ediv, den_coe, num_coe]
+
+variable {K} [LinearOrderedSemifield K] [FloorSemiring K]
+
+@[simp, norm_cast]
+theorem floor_cast (x : ℚ≥0) : ⌊(x : K)⌋₊ = ⌊x⌋₊ :=
+  (Nat.floor_eq_iff x.cast_nonneg).2 (mod_cast (Nat.floor_eq_iff x.cast_nonneg).1 (Eq.refl ⌊x⌋₊))
+
+@[simp, norm_cast]
+theorem ceil_cast (x : ℚ≥0) : ⌈(x : K)⌉₊ = ⌈x⌉₊ := by
```
Comment (YaelDillies) [inline Mathlib/Data/NNRat/Floor.lean:51]: I think you are missing `intFloor_cast` and `intCeil_cast`

File: Mathlib/Data/Rat/Cast/Order.lean
Comment (YaelDillies) [inline Mathlib/Data/Rat/Cast/Order.lean:1]: Can you add the same lemmas comparing `Nat.cast` and `Int.cast`? (I think they are also missing?)

File: Mathlib/Data/NNRat/Floor.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/NNRat/Floor.lean:15]: Yeah, but adding new definitions seems out of scope for a PR that adds new instances.

File: Mathlib/Data/NNRat/Floor.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/NNRat/Floor.lean:53]: Done

File: Mathlib/Data/Rat/Cast/Order.lean
Comment (eric-wieser) [reply Mathlib/Data/Rat/Cast/Order.lean:1]: I want to declare this out of scope for a PR about NNRat.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/Data/NNRat/Floor.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+namespace NNRat
+
+instance : FloorSemiring ℚ≥0 where
+  floor q := ⌊q.val⌋₊
+  ceil q := ⌈q.val⌉₊
+  floor_of_neg h := by simpa using h.trans zero_lt_one
+  gc_floor {a n} h := by rw [← NNRat.coe_le_coe, Nat.le_floor_iff] <;> norm_cast
+  gc_ceil {a b} := by rw [← NNRat.coe_le_coe, Nat.ceil_le]; norm_cast
+
+theorem floor_coe (q : ℚ≥0) : ⌊(q : ℚ)⌋₊ = ⌊q⌋₊ := rfl
```
Comment (urkud) [inline Mathlib/Data/NNRat/Floor.lean:31]: Should these 2 lemmas be `simp`?

**Comment by urkud** [comment]
Otherwise LGTM. Thanks!
bors d+

File: Mathlib/Data/NNRat/Floor.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/NNRat/Floor.lean:32]: Sure, why not.

**Review by jcommelin — COMMENTED** [review]
bors r+

**Comment by sgouezel** [comment]
Can you merge master, fix the build, and send it back to bors?
bors d+
